US04708955
Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylate (Ib, R2 =CH3, R3 =H, R4 =PV*
To a mixture of 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-propenyl)-3-cephem-4-carboxylic acid (Ia, R2 =CH3, R3 =H) (E/Z=1/17, 90 mg, 0.21 mmole) and potassium carbonate (44 mg, 0.32 mmole) in DMF (3 ml) was added at 0° C. pivaloyloxymethyl iodide (77 mg, 0.32 mmole). The mixture was stirred at 0° C. for 40 minutes, diluted with ethyl acetate (20 ml), washed with water, dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was dissolved in CHCl3 and chromatographed on a silica gel column (silica gel: 3 g) by eluting with 1% methanol in CHCl3 to yield 85 mg (75%) of the title compound. Mp. 100°-104° C. Estimated purity 90% (by HPLC).

reactant | 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-propenyl)-3-cephem-4-carboxylic acid | 0.21 mmole, 90 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC)C(=O)O)C1=O)=N/OC | C16H17N5O5S2
reactant | potassium carbonate | 0.32 mmole, 44 mg | C([O-])([O-])=O.[K+].[K+]
reactant | pivaloyloxymethyl iodide | 0.32 mmole, 77 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylate | 85 mg, 75% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C)C(=O)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C22H27N5O7S2
